US06465504B1
4.3 g of 5-fluoro-salicylamide and 4.7 g of 5-fluorosalicylic acid are boiled under reflux in 50 ml of xylene after addition of 0.3 ml of pyridine. 4.4 ml of thionyl chloride are added in the course of 2 h, the mixture is stirred for a further 1 h and the solvent is then distilled off under reduced pressure. The residue is suspended in 30 ml of ethanol, filtered off and washed with ethanol. After drying, 6-fluoro-2-(5-fluoro-2-hydroxyphenyl)benz[e][1,3]oxazin-4-one is obtained as slightly yellow crystals of m.p. 250-252 C.

reactant | 5-fluoro-salicylamide | 4.3 g | FC1=CC=C(C(C(=O)N)=C1)O | C7H6FNO2
reactant | 5-fluorosalicylic acid | 4.7 g | FC1=CC=C(C(C(=O)O)=C1)O | C7H5FO3
reactant | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 4.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-fluoro-2-(5-fluoro-2-hydroxyphenyl)benz[e][1,3]oxazin-4-one | FC=1C=CC2=C(C(N=C(O2)C2=C(C=CC(=C2)F)O)=O)C1 | C14H7F2NO3
